US05102897
Hydrazine monohydrate (16 mL, 324 mmol) is added to a room temperature solution of methyl 3-[[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate (3.5 g, 10.8 mMol) in methanol (110 mL). The reaction mixture is heated at reflux for 2 hours, then cooled, diluted with ethyl acetate and washed six times with water and once with brine. Drying the organic phase over magnesium sulfate and evaporation provides a crude solid which is chromatographed on a column of silica with methanol/chloroform (5/95) to afford 2.4 g (64%) of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide, mp 107.0°-110.0° C.

reactant | Hydrazine monohydrate | 324 mmol, 16 mL | O.NN
reactant | methyl 3-[[3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate | 10.8 mMol, 3.5 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)OC | C18H28O3S
solvent | methanol | 110 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide | 2.4 g, 64% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NN | C17H28N2O2S
